US06777557B2
3-(2-Oxo-2-phenylethyl)-2-(1-hydroxyethyl)thiazolium bromide
1-(2-Thiazolyl)ethanol (0.71 g, 5.49 mmole), 2-bromo-1-phenyl-1-ethanone (1.09 g, 5.47 mmole), and acetonitrile (0.6 mL) were combined and heated with stirring at 130 C. for 4 hr. After cooling, water (20 mL) was added and the mixture was filtered and extracted twice with ether. The aqueous layer was treated with active carbon and filtered to give a clear solution which was concentrated in vacuo to 1.52 g of residue, which was crystallized from acetonitrile/ether and recrystallized twice from methanol/acetonitrile/ether to give 0.77 g of the title compound as prisms, mp 157-158 C; calc'd for C13H14NO2SBr: C 47.55, H 4.33, N 4.26; found: C 47.52, H 4.32, N 4.14.

reactant | 1-(2-Thiazolyl)ethanol | 5.49 mmole, 0.71 g | S1C(=NC=C1)C(C)O | C5H7NOS
reactant | 2-bromo-1-phenyl-1-ethanone | 5.47 mmole, 1.09 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | acetonitrile | 0.6 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | 3-(2-Oxo-2-phenylethyl)-2-(1-hydroxyethyl)thiazolium bromide | 0.77 g | [Br-].O=C(C[N+]1=C(SC=C1)C(C)O)C1=CC=CC=C1 | InChI=1S/C13H14NO2S.BrH/c1-10(15)13-14(7-8-17-13)9-12(16)11-5-3-2-4-6-11;/h2-8,10,15H,9H2,1H3;1H/q+1;/p-1
